US05902814
(a) 3-Hydroxy-1-azabicyclo[2.2.1]hept-3-yl acetic acid ethyl ester
To a cooled (-78° C.) solution of diisopropylamine (2.65 ml, 0.0203 moles) in tetrahydrofuran (150 ml) was added 2.5M n-BuLi in hexanes (8.1 ml, 0.0203 moles) dropwise over one minute. After ten minutes, ethyl acetate (1.97 ml, 0.0203 moles) was added dropwise over one minute. After a further ten minutes, 1-azabicyclo[2.2.1]heptan-3-one (1.5 g, 0.0135 moles, prepared by the method of J Chem Soc, Chem Commun, 1618, 1988) in tetrahydrofuran (25 ml) was added dropwise over five minutes. After twenty five minutes, the cold bath was removed and the mixture was allowed to warm to ambient temperature. To this mixture was added water (100 ml) followed by chloroform (250 ml). The organic layer was separated and the aqueous layer was extracted with chloroform (100 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give the subtitle compound (1.12 g).

reactant | diisopropylamine | 0.0203 moles, 2.65 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | ethyl acetate | 0.0203 moles, 1.97 ml | C(C)(=O)OCC | C4H8O2
reactant | 1-azabicyclo[2.2.1]heptan-3-one | N12CC(C(CC1)C2)=O | C6H9NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-1-azabicyclo[2.2.1]hept-3-yl acetic acid ethyl ester | 1.12 g | C(C)OC(CC1(CN2CCC1C2)O)=O | C10H17NO3
